US03950339
(4-Chloro-6-Methyl-2-Pyrimidinylthio)Acetonitrile
To a solution of 19.4 g. (0.13 mole) of N,N-diethylaniline in 250 ml of phosphorus oxychloride was added 25.8 g (0.13 mole) of 2-(4-hydroxy-6-methyl-2-pyrimidinylthio)acetamide, the mixture was heated under reflux for 1 hour. The phosphorus oxychloride was removed in a rotary evaporator and the residue was poured onto 1 liter of cracked ice. The precipitate which resulted was collected, dried, and recrystallized from heptane to give 13.0 g. of pure white product, m.p. 62°-65°.

reactant | N,N-diethylaniline | 0.13 mole | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | 2-(4-hydroxy-6-methyl-2-pyrimidinylthio)acetamide | 0.13 mole, 25.8 g | OC1=NC(=NC(=C1)C)SCC(=O)N | C7H9N3O2S
reactant | phosphorus oxychloride | 250 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (4-Chloro-6-Methyl-2-Pyrimidinylthio)Acetonitrile | ClC1=NC(=NC(=C1)C)SCC#N | C7H6ClN3S
